US06982348B2
To a solution of zinc chloride (8.14 g, 59.8 mmol) in diethyl ether (200 ml) was added sodium borohydride (4.53 g, 120 mmol), and the-mixture was stirred at room temperature for 30 min. The insoluble material was filtered off, and to the filtrate was added ethyl 3-oxo-3-(4-pyridyl)-2-((4-(trifluoromethyl)phenyl)methyl)propionate (10.5 g, 29.9 mmol) in diethyl ether (50 ml). The mixture was stirred at room temperature for 30 min. and 1N hydrochloric acid was added to the reaction solution under ice-cooling to quench the reaction. Saturated aqueous sodium hydrogen carbonate was added until the pH became 8, and the mixture was extracted with ethyl acetate (300 ml×2). The extract was washed with water and saturated brine, dried over anhydrous magnesium sulfate and evaporated under reduced pressure. The residue was purified by silica gel column chromatography (ethyl acetate) and recrystallized from diisopropyl ether-hexane to give ethyl (2RS,3RS)-3-hydroxy-3-(4-pyridyl)-2-((4-(trifluoromethyl)phenyl)methyl)propionate (9.52 g, 90%).

reactant | sodium borohydride | 120 mmol, 4.53 g | [BH4-].[Na+]
reactant | ethyl 3-oxo-3-(4-pyridyl)-2-((4-(trifluoromethyl)phenyl)methyl)propionate | 29.9 mmol, 10.5 g | O=C(C(C(=O)OCC)CC1=CC=C(C=C1)C(F)(F)F)C1=CC=NC=C1 | C18H16F3NO3
reactant | hydrochloric acid | 1N | Cl | ClH
reactant | sodium hydrogen carbonate | C(O)([O-])=O.[Na+]
solvent | diethyl ether | 200 ml | C(C)OCC | C4H10O
solvent | diethyl ether | 50 ml | C(C)OCC | C4H10O
catalyst | zinc chloride | 59.8 mmol, 8.14 g | [Cl-].[Zn+2].[Cl-]
product | ethyl (2RS,3RS)-3-hydroxy-3-(4-pyridyl)-2-((4-(trifluoromethyl)phenyl)methyl)propionate | 9.52 g, 90% | OC(C(C(=O)OCC)CC1=CC=C(C=C1)C(F)(F)F)C1=CC=NC=C1 | C18H18F3NO3
